US03997586
22.3 gm of sodium phenyl sulfinate, 2.2 gm of potassium carbonate and 0.2 gm of sodium iodide were introduced into 50 cc of methanol. Then 23.6 gm of 1-bromo-2-cyclopentylidene-ethane were added at a temperature of about +10° C and under agitation and the reaction mixture was agitated for 2 hours at 20° C. Thereafter, the reaction mixture was poured into ice water and cooled to 0° C. The precipitate formed was isolated by vacuum filtering and dried under vacuum in the presence of potassium hydroxide to obtain 15 gm of (2-cyclopentylidene-ethyl)-phenyl sulfone having a melting point of 68° C. A sample of the product crystallized from isopropyl ether had a melting point of 68° C.

reactant | sodium phenyl sulfinate | 22.3 gm | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | potassium carbonate | 2.2 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-cyclopentylidene-ethane | 23.6 gm | BrCC=C1CCCC1 | C7H11Br
catalyst | sodium iodide | 0.2 gm | [I-].[Na+]
solvent | methanol | 50 cc | CO | CH4O
product | (2-cyclopentylidene-ethyl)-phenyl sulfone | 15 gm | C1(CCCC1)=CCS(=O)(=O)C1=CC=CC=C1 | C13H16O2S
